US05702930
The biomass was cultured as described in Example 1. The formation of picolinic acid took place under strictly anaerobic conditions. A 500 ml glass bottle with rubber septum charged with 400 ml of biomass of OD650 =20 was used for the biotransformation. Incubation took place at 30° C. Before the biotransformation was started, the mixture was made anaerobic with pure nitrogen. For this purpose, nitrogen (50 mbar gauge pressure) was passed through a needle into the stirred mixture for about 30 minutes in order to drive out the oxygen quantitatively. In order to prevent oxygen from entering during the biotransformation or on addition of the 2-cyanopyridine, the gas introduction was maintained during the biotransformation (about 10 mbar gauge pressure). 2-cyanopyridine was added in 12 steps each of 10 g/l, in each case after one hour had elapsed. The addition can, however, also take place continuously. HPLC was used to check whether 2-cyanopyridine had been completely converted into picolinic acid before adding another portion. During the biotransformation there was no detectable formation of picolinamide. It was possible with this process to prepare about 150 g/l picolinic acid within 26 hours. 6-Hydroxypicolinic acid was not formed during this.

reactant | picolinic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | oxygen | O=O | O2
reactant | 2-cyanopyridine | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | picolinamide | N1=C(C=CC=C1)C(=O)N | C6H6N2O
product | 6-Hydroxypicolinic acid | OC1=CC=CC(=N1)C(=O)O | C6H5NO3
